US05736540
α-[N-(Acetamido)amino]-N-[4-(5H-pyrrolo[2,1-c][1,4]-benzodiazepin-10(11H)-ylcarbonyl)phenyl]benzeneacetamide
A mixture of 0.14 g of α-chloro-N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]benzeneacetamide, 0.17 g of glycinamide HCl, 0.15 g of triethylamine, 3 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1M)-pyrimidinone and 1 ml of methyl alcohol is heated at 75° C. for 2 days. The methyl alcohol is evaporated and the residue diluted with water. The resulting suspension is filtered and the precipitate washed with water. The solid is dissolved in ethyl acetate and washed with saturated NaHCO3, brine and dried with Na2SO4. The mixture is filtered and the filtrate evaporated in vacuo to a residue which is stirred with ether-hexanes to give 0.13 g of tan solid. MS(CI): 494(M+H).

reactant | α-chloro-N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]benzeneacetamide | 0.14 g | ClC(C(=O)NC1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)C2=CC=CC=C2 | C27H22ClN3O2
reactant | glycinamide HCl | 0.17 g | Cl.NCC(=O)N
reactant | triethylamine | 0.15 g | C(C)N(CC)CC | C6H15N
reactant | pyrimidinone | N1C(N=CC=C1)=O | C4H4N2O
solvent | methyl alcohol | 1 ml | CO | CH4O
product | α-[N-(Acetamido)amino]-N-[4-(5H-pyrrolo[2,1-c][1,4]-benzodiazepin-10(11H)-ylcarbonyl)phenyl]benzeneacetamide | 0.13 g | C(C)(=O)NNC(C(=O)NC1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)C2=CC=CC=C2 | C29H27N5O3
